US08957062B2
Step A: benzyl 4-((1R,2S)-2-(2-(5-(methylsulfonyl)pyridin-2-yloxy)ethyl)cyclopropyl)piperidine-1-carboxylate
Sodium hydride (424 mg, 60% dispersion in mineral oil, 10.6 mmol) was added to a solution of benzyl 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (1.07 g, 3.53 mmol) in N,N-dimethylformamide (10 mL) under nitrogen at RT. The mixture was stirred for 30 min at RT and 2-bromo-5-(methylsulfonyl)pyridine (1.25 g, 5.30 mmol) was added. The mixture was stirred overnight, diluted with ethyl acetate (100 mL) and water (50 mL), and the layers were separated. The organic layer was washed with brine (2×25 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (40 g RediSep, eluted with a gradient of hexanes to ethyl acetate, 9:1, 200 mL; 4:1, 500 mL; 1:1, 1 L) to provide the title compound as a light yellow oil. 1H NMR (300 MHz, CDCl3) δ 8.71 (dd, J=0.5, 2.5 Hz, 1H), 8.03 (dd, J=2.5, 8.7 Hz, 1H), 7.40-7.28 (m, 5H), 6.84 (dd, J=0.6, 8.7 Hz, 1H), 5.13 (s, 2H), 4.48 (t, J=7.2 Hz, 2H), 4.30-4.10 (m, 2H), 3.07 (s, 3H), 2.90-2.60 (m, 2H), 2.20-2.00 (m, 1H), 1.85-1.65 (m, 2H), 1.60-1.45 (m, 1H), 1.45-1.20 (m, 2H), 1.10-0.85 (m, 2H), 0.75-0.50 (m, 2H), −0.12 (q, J=5.1 Hz, 1H). MS (Multimode) m/z 459 [M+H]+.

reactant | Sodium hydride | 10.6 mmol, 424 mg | [H-].[Na+]
reactant | benzyl 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 3.53 mmol, 1.07 g | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO3
reactant | 2-bromo-5-(methylsulfonyl)pyridine | 5.30 mmol, 1.25 g | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | benzyl 4-((1R,2S)-2-(2-(5-(methylsulfonyl)pyridin-2-yloxy)ethyl)cyclopropyl)piperidine-1-carboxylate | CS(=O)(=O)C=1C=CC(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H30N2O5S
